US09126931B2
10,10-Dimethyl-8-((2R,3R)-2,3,4-trihydroxy-butoxy)-10H-11-oxa-4-aza-benzo[b]fluoren-5-one
To the mixture of 8-[(4R,5R)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-10,10-dimethyl-10H-11-oxa-4-aza-benzo[b]fluoren-5-one (Compound GT15-6, 27 mg), MeOH (0.1 ml) and THF (0.3 ml), 0.5 N sulfuric acid (0.1 ml) was added, and the mixture was stirred and heated at 55 to 60° C. for 4 hrs. The reaction mixture was neutralized with saturated aqueous solution of sodium bicarbonate. The resulting solid was filtered and washed with diethyl ether. The filtrate was extracted with the mixture solution of DCM and MeOH (DCM:MeOH=10:1). The organic layer was washed with saturated brine, and dried over magnesium sulfate. The filtered solid and the residues obtained after concentration under reduced pressure were combined and purified by silica gel column (DCM/MeOH) to obtain the title compound (5.4 mg, 28%).

reactant | 8-[(4R,5R)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-10,10-dimethyl-10H-11-oxa-4-aza-benzo[b]fluoren-5-one | 27 mg | C(C)(C)(C)[SiH2]OC([C@H]1[C@H](OC(O1)(C)C)COC=1C=CC2=C(C(C=3OC=4C=CC=NC4C3C2=O)(C)C)C1)(C)C | C30H39NO6Si
reactant | MeOH | 0.1 ml | CO | CH4O
reactant | sulfuric acid | 0.5 N, 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | 10,10-Dimethyl-8-((2R,3R)-2,3,4-trihydroxy-butoxy)-10H-11-oxa-4-aza-benzo[b]fluoren-5-one | 5.4 mg, 28% | CC1(C2=C(C(C=3C=4N=CC=CC4OC13)=O)C=CC(=C2)OC[C@H]([C@@H](CO)O)O)C | C21H21NO6
